US05569764
Preparation of 7-(2-Cyanoethyl)indole) starting material
A solution of methyl 3-methyl-2-nitrobenzoate (43 g, 0.22 mole), dimethylformamide dimethyl acetal (52.5 g, 0.44 mole) and piperidine (18.7 g, 0.22 mole) in dimethylformamide (120 ml) is heated under reflux for 24 hours, cooled and poured into water to give the crude product.

reactant | methyl 3-methyl-2-nitrobenzoate | 0.22 mole, 43 g | CC=1C(=C(C(=O)OC)C=CC1)[N+](=O)[O-] | C9H9NO4
reactant | dimethylformamide dimethyl acetal | 0.44 mole, 52.5 g | COC(N(C)C)OC | C5H13NO2
reactant | piperidine | 0.22 mole, 18.7 g | N1CCCCC1 | C5H11N
reactant | water | O | H2O
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 7-(2-Cyanoethyl)indole | C(#N)CCC=1C=CC=C2C=CNC12 | C11H10N2
